US04294960
N,N-Dimethylformamide (3 drops) was added to a suspension of 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 23 g.), and stirred at 60° C. for 5 minutes. After concentrating the solution in vacuo, benzene was added to the residue. The precipitates were collected by filtration, washed with benzene (30 ml.) three times and diethyl ether in turn to give 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetyl chloride (anti isomer, 18 g.). On the other hand, trimethylsilylacetamide (46 g.) was added to a suspension of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (16.8 g.) in methylene chloride (168 ml.), and stirred at 40° C. for an hour. To the suspension was gradually added 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetyl chloride (anti isomer, 13.6 g.) at -5° to 0° C., and stirred at the same temperature for an hour. Water (150 ml.) was added to the resultant solution and stirred for 15 minutes. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide under reduced pressure to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (anti isomer, 25.7 g.).

reactant | trimethylsilylacetamide | 46 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 16.8 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetyl chloride | 13.6 g | C(=O)NC=1SC=C(N1)C(C(=O)Cl)=NOC | C7H6ClN3O3S
reactant | Water | 150 ml | O | H2O
solvent | methylene chloride | 168 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 25.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H18N6O8S2
